US07335778B2
In 10 ml of N,N-dimethylformamide was dissolved 0.541 g of (4R)-4-[(1S)-1-(N-benzylamino)-1-carbamoylmethyl]-3-benzylthiazolidin-2-one hydrochloride, the solution was stirred under nitrogen atmosphere at 100° C. for 3 hours. Ethyl acetate was added to the reaction mixture, and the resulting mixture was washed with water, and saturated brine, dried and concentrated. The residue was crystallized from hexane to give 342 mg of (3aS,6aR)-1,3-dibenzyl-hexahydro-4H-thieno[3,4-d]imidazol-2,4-dione as colorless crystal.

reactant | (4R)-4-[(1S)-1-(N-benzylamino)-1-carbamoylmethyl]-3-benzylthiazolidin-2-one hydrochloride | 0.541 g | Cl.C(C1=CC=CC=C1)N[C@H](C(N)=O)[C@H]1N(C(SC1)=O)CC1=CC=CC=C1
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3aS,6aR)-1,3-dibenzyl-hexahydro-4H-thieno[3,4-d]imidazol-2,4-dione | 342 mg | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1CSC2=O)CC2=CC=CC=C2)=O | C19H18N2O2S
